Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Boostrix Tdap
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
___: Diagnostic laparoscopy.

 
History of Present Illness:
___ PMH HTN p/w 1 day of severe epigastric pain. She states 
she had severe epigastirc pain this morning and one episode of 
vomiting. She presented to the ED, and upon examination of the 
patient this evening, she states she has been feeling better and 
in the ED her pain is ___. Her last BM was this morning and she 
denies hemetemeis, hematochezia, melena, or BRBPR.  Her ROS was 
otherwise negative and since receiving a GI cocktail and pain 
medications in the ED, has been feeling better. 
 
Past Medical History:
*S/P TUBAL LIGATION                                             
HYPERTENSION                                                    
OBESITY                                                         
OVARIAN CYSTS                                                   
RECTAL BLEEDING                                                 
RIGHT POST-AURICULAR NODULE                                     
GENITAL HERPES                                                  
HEMATOCHEZIA                                                    
CONSTIPATION                                                    
ANAL TAG                                                        
VITREOUS BODY DISORDER  
 
Social History:
___
Family History:
Grandmother passed away of gastric CA in ___, denies any other 
sig family history
 
Physical Exam:
Admission Physical Exam:
Vitals:98.5 79 119/78 18 100% RA 
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, obese, mildly TTP in epigastric area w/o guarding
rebound. 
Ext: No ___ edema, ___ warm and well perfused

Discharge Physical Exam:
VS: 98.6 PO 121 / 85 L Lying 78 18 97 Ra 
Gen: Awake, alert, pleasant and interactive.
HEENT: PERRL. EOMI. Mucus membranes pink/moist.
CV: RRR
Pulm: Clear bilaterally
Abd: Soft, mildly tender incisionally as anticipated, active 
bowel sounds. Laparoscopic incision with dermabond CDI.
Ext: Warm and dry 2+ ___ pulses.
Neuro: A&Ox3, follows commands and moves all extremities equal 
and strong. 
 
Pertinent Results:
___ 05:45AM BLOOD WBC-7.3 RBC-4.33 Hgb-11.2 Hct-35.7 MCV-82 
MCH-25.9* MCHC-31.4* RDW-13.9 RDWSD-41.8 Plt ___
___ 03:45PM BLOOD WBC-5.7 RBC-4.80 Hgb-12.2 Hct-39.5 MCV-82 
MCH-25.4* MCHC-30.9* RDW-14.1 RDWSD-41.9 Plt ___
___ 04:35AM BLOOD WBC-8.2 RBC-4.26 Hgb-11.1* Hct-35.5 
MCV-83 MCH-26.1 MCHC-31.3* RDW-14.6 RDWSD-43.9 Plt ___
___ 01:51PM BLOOD WBC-6.4 RBC-5.18 Hgb-13.3 Hct-42.2 MCV-82 
MCH-25.7* MCHC-31.5* RDW-14.7 RDWSD-43.1 Plt ___
___ 01:51PM BLOOD Neuts-71.1* ___ Monos-5.5 
Eos-0.3* Baso-0.6 Im ___ AbsNeut-4.52 AbsLymp-1.41 
AbsMono-0.35 AbsEos-0.02* AbsBaso-0.04
___ 05:45AM BLOOD Glucose-101* UreaN-5* Creat-0.6 Na-136 
K-3.8 Cl-101 HCO3-22 AnGap-17
___ 03:45PM BLOOD Glucose-74 UreaN-6 Creat-0.7 Na-138 K-3.8 
Cl-102 HCO3-21* AnGap-19
___ 04:35AM BLOOD Glucose-73 UreaN-9 Creat-0.7 Na-138 
K-3.2* Cl-105 HCO3-22 AnGap-14
___ 01:51PM BLOOD Glucose-87 UreaN-14 Creat-0.7 Na-138 
K-7.5* Cl-104 HCO3-22 AnGap-20
___ 01:51PM BLOOD ALT-20 AST-50* AlkPhos-66 TotBili-0.6
___ 05:45AM BLOOD Calcium-8.6 Phos-3.5 Mg-1.9
___ 03:45PM BLOOD Calcium-8.9 Phos-2.9 Mg-2.0
___ 04:35AM BLOOD Calcium-7.9* Phos-2.5* Mg-2.0
___ 01:51PM BLOOD Albumin-4.5 Calcium-8.9 Phos-4.3 Mg-2.4
___ 03:26PM BLOOD Lactate-2.4* K-4.8

RADIOLOGY:
___ CT Abdomen/Pelvis:
1.  In the upper midline abdomen, there is a short segment (1 
cm) of small 
bowel intussusception involving the jejunum without upstream 
bowel obstruction.  Small bowel intussusception can be an 
incidental CT finding and be transient in nature. 
2.  ___ right adnexal structures, likely cysts.  Recommend 6 
week nonemergent pelvic ultrasound for follow-up. 

 
Brief Hospital Course:
Ms. ___ is a ___ female, who initially presented to 
the Emergency Department with 1 day of epigastric pain and 
without any clinical signs of obstruction, but had a CAT scan 
that demonstrated small bowel intussusception in the left upper 
quadrant.  The patient's pain and symptoms did correspond to
the area on the CAT scan, so a period of observation ensued, in 
which her symptoms improved but did not completely resolve.  
After a thorough discussion of the possible
diagnoses, as well as the risks that this is just an imaging 
finding, the patient elected to proceed to surgery. Informed 
consent was obtained and she was taken to the operating room on 
___ for a diagnostic laparoscopy. She tolerated the 
procedure well; please see operative report for details. No 
obstruction or intussusception was appreciated. Post operatively 
she was extubated and taken to the PACU in stable condition. 
Once recovered, patient was transferred to the floor for further 
post operative monitoring and management. 

Neuro: The patient was alert and oriented throughout 
hospitalization; pain was initially managed with a IV dilaudid 
and then transitioned to oral oxycodone and Tylenol once 
tolerating a diet. 
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint. Good pulmonary toilet, early ambulation and 
incentive spirometry were encouraged throughout hospitalization. 

GI/GU/FEN: The patient was initially kept NPO with IV fluids. 
Postoperatively, on POD2 the diet was advanced sequentially to a 
Regular diet, which was well tolerated. Patient's intake and 
output were closely monitored. 
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

Incidental finding on CT scan: ___ right adnexal structures, 
likely cysts.  Recommend 6 week nonemergent pelvic ultrasound 
for follow-up. 
 
Medications on Admission:
AMLODIPINE - amlodipine 5 mg tablet. 1 tablet(s) by mouth once a
day
CYCLOBENZAPRINE - cyclobenzaprine 10 mg tablet. 1 tablet by 
mouth
at bedtime as needed for lower back pain. The medication may
cause drowsiness. Do not drive when you feel sleepy.
FLUTICASONE - fluticasone 50 mcg/actuation nasal
spray,suspension. 2 (Two) sprays each nostril once a day
KETOCONAZOLE - ketoconazole 2 % topical cream. apply once daily
to affected area for two weeks total
NAPROXEN - naproxen 500 mg tablet. 1 tablet by mouth twice a day
as needed for lower back pain. Take the medication with food.
RIZATRIPTAN - rizatriptan 10 mg disintegrating tablet. one
tablet(s) by mouth as needed for migraine. Take with ibuprofen,
may repeat in 2 hours to two total rizatriptan in 24 hours
TOPIRAMATE - topiramate 25 mg tablet. 3 tablet(s) by mouth once
daily
UREA - urea 40 % topical cream. apply to feet ___ times daily
ZOLPIDEM - zolpidem 5 mg tablet. ___ tablet(s) by mouth at
bedtime
 
Medications - OTC
CETIRIZINE - cetirizine 10 mg tablet. 1 Tablet(s) by mouth daily
as needed for allergies
DOCUSATE SODIUM [COLACE] - Dosage uncertain -  (Prescribed by
Other Provider)
GUAR GUM [BENEFIBER (GUAR GUM)] - Dosage uncertain -  
(Prescribed
by Other Provider)
POLYETHYLENE GLYCOL 3350 [MIRALAX] - Dosage uncertain - 
(Prescribed by Other Provider) (Not Taking as Prescribed)
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
Do not exceed 4 grams/24 hours.  
2.  Docusate Sodium 100 mg PO BID 
hold for loose stool.
Available over the counter. 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*0 
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
Take lowest effective dose. 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0 
4.  Senna 8.6 mg PO BID:PRN constipation 
Available over the counter. 
RX *sennosides [senna] 8.6 mg 1 tab by mouth once a day Disp 
#*30 Tablet Refills:*0 
5.  amLODIPine 5 mg PO DAILY  
6.  Cetirizine 10 mg PO DAILY:PRN allergies  
7.  Cyclobenzaprine 10 mg PO HS:PRN back pain  
8.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
9.  Naproxen 500 mg PO Q12H:PRN back pain 
take with food  
10.  Polyethylene Glycol 17 g PO DAILY:PRN constipation 
RX *polyethylene glycol 3350 17 gram/dose 17 grams by mouth once 
a day Refills:*0 
11.  rizatriptan 10 mg oral ONCE MR1  
12.  Topiramate (Topamax) 75 mg PO DAILY  
13.  Zolpidem Tartrate ___ mg PO QHS insomnia 
Do not take with narcotic pain medication.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal Pain
Normal bowel.
No evidence of intussusception.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the Acute Care Surgery Service on ___ 
with abdominal pain and a CT scan concerning for a bowel 
obstruction. The decision was made to operate but not acute 
cause of your symptoms was found. You are now doing better, 
abdominal pain is improved, and your are tolerated a regular 
diet. 

You are now ready to be discharged home with the following 
instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.
*If you have staples, they will be removed at your follow-up 
appointment.
*If you have steri-strips, they will fall off on their own. 
Please remove any remaining strips ___ days after surgery.

 
Followup Instructions:
___